US04226876
A solution of dimethylthiocarbamoyl chloride (2.47 g; 0.020 mole) in chloroform (10 ml) was added dropwise during 10 minutes, to a stirred solution of 2-(2,3-dimethylphenoxymethyl)-2-imidazoline (4.08 g; 0.020 mole) prepared as in Example 1--and triethylamine (2.0 g; 0.20 mole) in chloroform (50 ml) cooling to keep the reaction below 5° C. The reaction temperature was then allowed to rise to room temperature and finally the reaction was refluxed for 5 hours. After cooling the reaction mixture was washed with water, dried and evaporated. The residue was recrystallised from isopropanol to yield white crystals of 2-(2,3-dimethylphenoxymethyl)-1-(N,N-dimethylthiocarbamoyl)-2-imidazoline, m.p. 124°-127° C. Analysis: Calculated C 61.84, H 7.27, N 14.42%. Found: C 62.15, H 7.64, N 14.35%.

reactant | dimethylthiocarbamoyl chloride | 0.020 mole, 2.47 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | 2-(2,3-dimethylphenoxymethyl)-2-imidazoline | 0.020 mole, 4.08 g | CC1=C(OCC=2NCCN2)C=CC=C1C | C12H16N2O
reactant | triethylamine | 0.20 mole, 2.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2,3-dimethylphenoxymethyl)-1-(N,N-dimethylthiocarbamoyl)-2-imidazoline | CC1=C(OCC=2N(CCN2)C(N(C)C)=S)C=CC=C1C | C15H21N3OS
